US05075299
6-Hydroxymethyl-5-hydroxy-2-methyl-4-pyrone
5-Hydroxy-2-methyl-4-pyrone, 6 g, was suspended in 25 ml of water and a pH of the suspension was adjusted to 10.5 with 50% sodium hydroxide. After 5 ml of 35% formalin was added to the suspension, the mixture was stirred at room temperature for 3 hours. After completion of the reaction, the reaction mixture was cooled to 5° C. and its pH was adjusted to 2.0 with 50% sulfuric acid. Then, the reaction solution was concentrated to about half and the resulting crystals were taken out by filtration and washed with a small quantity of chilled water to give 5.9 g of the title compound.

reactant | 5-Hydroxy-2-methyl-4-pyrone | OC=1C(C=C(OC1)C)=O | C6H6O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | formalin | 5 ml | C=O | CH2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 25 ml | O | H2O
product | 6-Hydroxymethyl-5-hydroxy-2-methyl-4-pyrone | 5.9 g | OCC1=C(C(C=C(O1)C)=O)O | C7H8O4
